### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Functor): dualize `OfSequence`

### PR DESCRIPTION
**Pull request by dagurtomas**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 1]
```diff
@@ -144,4 +147,145 @@ def ofSequence : F ⟶ G where
...
+example : map f 5 5 (by omega) = 𝟙 _ := rfl
+example : map f 0 3 (by omega) = f 2 ≫ f 1 ≫ f 0 := rfl
+example : map f 3 7 (by omega) = f 6 ≫ f 5 ≫ f 4 ≫ f 3 := rfl
+
+end OfOpSequence
+
+/-- The functor `ℕᵒᵖ ⥤ C` constructed from a sequence of
+morphisms `f : X (n + 1) ⟶ X n` for all `n : ℕ`. -/
+@[simps obj]
+def ofOpSequence : ℕᵒᵖ ⥤ C where
```
[the remark this answers is not in the document]
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Functor/OfSequence.lean]: I agree this is probably fine. If it leads to problems in the future we can dig up the commit with the other definition

[the remark this answers is not in the document]
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Functor/OfSequence.lean]: Note that if we don't care about defeqs for explicit natural numbers, then we could do the following:

```lean
/-- The morphism `X i ⟶ X j` obtained by composing morphisms of
the form `X n ⟶ X (n + 1)` when `i ≤ j`. -/
def map : ∀ {X : ℕ → C} (_ : ∀ n, X n ⟶ X (n + 1)) (i j : ℕ), i ≤ j → (X i ⟶ X j) :=
  fun f _ _ h ↦ Nat.leRecOn h (fun g ↦ g ≫ f _) (𝟙 _)

lemma map_id (i : ℕ) : map f i i (by omega) = 𝟙 _ :=
  Nat.leRecOn_self _

lemma map_le_succ (i : ℕ) : map f i (i + 1) (by omega) = f i := by
  simp [map, Nat.leRecOn_succ, Nat.leRecOn_self]

@[reassoc]
lemma map_comp (i j k : ℕ) (hij : i ≤ j) (hjk : j ≤ k) :
    map f i k (hij.trans hjk) = map f i j hij ≫ map f j k hjk := by
  induction hjk with
  | refl =>
    simp [map, Nat.leRecOn_self _]
  | @step p hjk ih =>
    rw [map, Nat.leRecOn_succ (hij.trans hjk)]
    simp only [map] at ih
    rw [ih, map, map, Category.assoc]
    congr
    rw [Nat.leRecOn_succ]

example : map f 5 5 (by omega) = 𝟙 _ := rfl
example : map f 0 3 (by omega) = f 0 ≫ f 1 ≫ f 2 := by
  rw [← map_le_succ f 0, ← map_le_succ f 1, ← map_le_succ f 2]
  rw [← map_comp, ← map_comp]
example : map f 3 7 (by omega) = f 3 ≫ f 4 ≫ f 5 ≫ f 6 := by
  rw [← map_le_succ f 3, ← map_le_succ f 4, ← map_le_succ f 5, ← map_le_succ f 6]
  rw [← map_comp, ← map_comp, ← map_comp]
```

But let's keep the good defeqs. I haven't looked in detail why `Nat.leRecOn` doesn't give the desired defeqs (neither association works)

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 2]
```diff
@@ -144,4 +147,57 @@ def ofSequence : F ⟶ G where
 
 end NatTrans
 
+namespace Functor
+
+variable {X : ℕ → C} (f : ∀ n, X (n + 1) ⟶ X n)
+
+/-- The functor `ℕᵒᵖ ⥤ C` constructed from a sequence of
+morphisms `f : X (n + 1) ⟶ X n` for all `n : ℕ`. -/
+@[simps!]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:156]: I do not think we want to have the `map` part of `ofSequence` appear here:
```suggestion
@[simps! obj]
```

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 3]
```diff
@@ -144,4 +147,57 @@ def ofSequence : F ⟶ G where
...
+
+-- `ofOpSequence` has good definitional properties when applied to explicit natural numbers
+example : (ofOpSequence f).map (homOfLE (show 5 ≤ 5 by omega)).op = 𝟙 _ := rfl
+example : (ofOpSequence f).map (homOfLE (show 0 ≤ 3 by omega)).op = (f 2 ≫ f 1) ≫ f 0 := rfl
+example : (ofOpSequence f).map (homOfLE (show 3 ≤ 7 by omega)).op =
+    ((f 6 ≫ f 5) ≫ f 4) ≫ f 3 := rfl
+
+lemma ofOpSequence_map_homOfLE_succ (n : ℕ) :
+    (ofOpSequence f).map (homOfLE (Nat.le_add_right n 1)).op = f n := by
+  simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:167]: Then, this one has to be a simp lemma:
```suggestion
@[simp]
lemma ofOpSequence_map_homOfLE_succ (n : ℕ) :
    (ofOpSequence f).map (homOfLE (Nat.le_add_right n 1)).op = f n := by
  simp [ofOpSequence]
```

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 4]
```diff
@@ -144,4 +147,57 @@ def ofSequence : F ⟶ G where
...
+    | zero =>
+        intro i j hk
+        obtain rfl : j = i := by omega
+        simp
+    | succ k hk =>
+        intro i j hk'
+        obtain rfl : i = j + k + 1 := by omega
+        simp only [← homOfLE_comp (show j ≤ j + k by omega) (show j + k ≤ j + k + 1 by omega),
+          Functor.map_comp, assoc, naturality, op_comp, hk _ j rfl ]
+        simp only [homOfLE_leOfHom, ← assoc, naturality]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:200]: The proof can be simplified by duality:
```suggestion
@[simps!]
def ofOpSequence : F ⟶ G where
  app n := app n.unop
  naturality _ _ f := by
    let φ : G.rightOp ⟶ F.rightOp := ofSequence (fun n ↦ (app n).op)
      (fun n ↦ Quiver.Hom.unop_inj (naturality n).symm)
    exact Quiver.Hom.op_inj (φ.naturality f.unop).symm
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Functor/OfSequence.lean:200]: Nice!

File: Mathlib/CategoryTheory/Functor/OfSequence.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/OfSequence.lean]: There is probably an extraneous left/right composition with an identity. I had carefully designed the pattern matching so that composition with the identities did not appear!

**Comment by joelriou** [comment]
Thanks!

bors merge
